datasets/10k_Mayr_OG.csv
SMILES Labelled
"CO/[C:10](C1=CC=CC=C1)=[C:11]1/[N:12](C2=CC=CC=C2)[N:72]=[C:73](C2=CC=CC=C2)[N:62]1C1=CC=CC=C1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](Br)[C:24](=[O:25])[C:33](Br)=[CH:32]2)[CH:46]=[CH:45]1>>CO[C:10](C1=CC=CC=C1)([C:11]1=[N+:12](C2=CC=CC=C2)[N:72]=[C:73](C2=CC=CC=C2)[N:62]1C1=CC=CC=C1)[CH:20]([C:21]1=[CH:22][C:23](Br)=[C:24]([O-:25])[C:33](Br)=[CH:32]1)[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1C[O:72][C:11]([O-:12])=[N:10]1.C[N+:21](C)=[CH:20]Cl>>C[N:21](C)[CH:20](Cl)[N:10]1CC[O:72][C:11]1=[O:12] 10,11=10,20;12=11,12;20,21=21"
"CC[Si:11](C)(CC)[H:10].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C1(C)C>>CC[Si+:11](C)CC.CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C1(C)C 10,11=10,20;20,21=21,22;22,23=23"
"CC[Si:63](CC)(CC)[CH2:62][C:11](C)=[C:10](C)C.[C:20](=[S:21])=[S:31]>>CC[Si:63](CC)(CC)[CH2:62][C+:11](C)[C:10](C)(C)[C:20]([S-:21])=[S:31] 10,11=10,20;20,21=21"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]C(F)(F)F)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].[H][Si:11]([H])([H:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20](C(F)(F)F)[H:10])=[CH:22]1.[H][Si+:11]([H])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[H][N-:10][C:61](C(F)(F)F)=[O:62]>>[H][N:10]([C:20]([C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[C:61](C(F)(F)F)=[O:62] 10=20
"FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33].[N-:10]1[CH:61]=[CH:62][N:72]=[CH:71]1>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].FC(F)(F)[S:20][N:10]1[CH:61]=[CH:62][N:72]=[CH:71]1 10=20;20,21=21,22;22,23=23"
"C[Si:63](C)(C)[O:12][C:11]1=[CH:10]CCCCC1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]2)=[CH:32]1>>C[Si:63](C)(C)[O+:12]=[C:11]1CCCCC[CH:10]1[CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]1 10,11=10,20;12=11,12"
"CC(C)[C:11](=[CH2:10])[O:12][Si:63](C)(C)C.CC[O:33][C:22](/[CH:21]=[CH:20]\[C:41](=[O:42])[O:52]CC)=[O:23]>>CC[O:33][C:22](=[CH:21][CH:20]([CH2:10][C:11](C(C)C)=[O+:12][Si:63](C)(C)C)[C:41](=[O:42])[O:52]CC)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].Cl[C:64]1=[CH:63][CH:62]=[C:61]([NH2:10])[CH:72]=[CH:73]1>>CC[O:34][C:32]([C:21]([CH:20]([NH2+:10][C:61]1=[CH:62][CH:63]=[C:64](Cl)[CH:73]=[CH:72]1)[C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"C[C:22]([CH:21]=[CH2:20])=[O:23].[N:10]1=[CH:11][N-:12][C:61]([CH:72]=[O:73])=[CH:62]1>>C[C:22](=[CH:21][CH2:20][N:10]1[CH:11]=[N:12][C:61]([CH:72]=[O:73])=[CH:62]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[N:10]2CCN1CC2.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([N+:10]12CCN(CC1)CC2)[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"C1=CC=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])C=C1.C[C-:10]([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]1>>C[C:10]([CH:20]([CH:21]=[C:22](C1=CC=CC=C1)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]1 10=20;20,21=21,22;22,23=23"
"CC1=CC=C([S:32](/[CH:21]=[CH:20]/C2=CC=CC=C2)(=[O:33])=[O:34])C=C1.C[Si:11](C)([H:10])[CH2:62][Ge:63](C)(C)C>>CC1=CC=C([S:32]([CH-:21][CH:20](C2=CC=CC=C2)[H:10])(=[O:33])=[O:34])C=C1.C[Si+:11](C)[CH2:62][Ge:63](C)(C)C 10,11=10,20;20,21=21"
"CC(C)(C1=C(I)C=CC=C1)[O:21][S:20]C(F)(F)F.C[Si:63]1(C)C[CH:11]([H:10])[CH2:62]1>>CC(C)(C1=C(I)C=CC=C1)[O-:21].C[Si:63]1(C)C[CH+:11][CH2:62]1.FC(F)(F)[S:20][H:10] 10,11=10,20;20,21=21"
"C1=CC=C([C:22]([CH:21]=[CH2:20])=[O:23])C=C1.CC[O:72][C:61]([CH:10]=[P:11](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=[O:62]>>CC[O:72][C:61]([CH:10]([P+:11](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[CH2:20][CH:21]=[C:22](C1=CC=CC=C1)[O-:23])=[O:62] 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:92][C:71]([CH-:10][C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:96])[CH:83]=[CH:82]1)=[O:72].F[C:20]1=[C:21](F)[C:22](=[O:23])[C:30](F)=[C:31](F)[C:32]1=[O:33]>>CC[O:92][C:71]([CH:10]([C:20]1(F)[C:21](F)=[C:22]([O-:23])[C:30](F)=[C:31](F)[C:32]1=[O:33])[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:96])[CH:83]=[CH:82]1)=[O:72] 10=20;20,21=21,22;22,23=23"
